US09375000B2
Step 6: Synthesis of N-{[6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)-pyrrolidin-1-yl}-4-(trifluoromethyl)pyridin-3-yl]methyl}cyclopropanecarboxamide
1-[6-{3-[3,5-Bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-4-(trifluoromethyl)pyridin-3-yl]methanamine (0.18 g) was dissolved in methylene chloride (5 ml), and to the solution was added cyclopropane carbonyl chloride (0.036 ml) at room temperature. The reaction mixture was stirred overnight and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography to obtain the target compound (0.15 g).

reactant | 1-[6-{3-[3,5-Bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-4-(trifluoromethyl)pyridin-3-yl]methanamine | 0.18 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=CC(=C(C=N1)CN)C(F)(F)F)C(F)(F)F)(F)F | C20H15F12N3
reactant | cyclopropane carbonyl chloride | 0.036 ml | C1(CC1)C(=O)Cl | C4H5ClO
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | N-{[6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)-pyrrolidin-1-yl}-4-(trifluoromethyl)pyridin-3-yl]methyl}cyclopropanecarboxamide | 0.15 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=CC(=C(C=N1)CNC(=O)C1CC1)C(F)(F)F)C(F)(F)F)(F)F | C24H19F12N3O
